US07683058B2
4,6-Dimethyl-2-morpholin-4-yl-pyrimidin-5-ylamine
The suspension of 4-(4,6-dimethyl-5-nitropyrimidin-2-yl)-morpholine (2.2 g, 9.23 mmol), 5% palladium on activated carbon (50% wet, 1.09 g), ammonium formate (8.76 g) was sealed in the Emrys process vial and heated at 150° C. under microwave irradiation for 2 min. The reaction mixture was filtered and evaporated. The residue was treated with ethyl acetate and filtered to give 1.62 g of orange crystalline product after evaporation in vacuo. Yield 84%. LC-MS (m/z) 208.9 (MH+); tR=0.44. 1H NMR (500 MHz, DMSO-d6): 2.2 (s, 6H), 3.44 (m, 4H), 3.62 (m, 4H), 4.19 (br, 2H, NH2).

reactant | 4-(4,6-dimethyl-5-nitropyrimidin-2-yl)-morpholine | 9.23 mmol, 2.2 g | CC1=NC(=NC(=C1[N+](=O)[O-])C)N1CCOCC1 | C10H14N4O3
reactant | ammonium formate | 8.76 g | C(=O)[O-].[NH4+]
catalyst | palladium on activated carbon | 1.09 g | [Pd] | Pd
product | 4,6-Dimethyl-2-morpholin-4-yl-pyrimidin-5-ylamine | 1.62 g, Yield 84% | CC1=NC(=NC(=C1N)C)N1CCOCC1 | C10H16N4O
